US08877741B2
2-Bromo-5-propoxy-pyridine
10.0 g (57.5 mmol) 2-bromo-5-hydroxypyridine, 28.3 g (230 mmol) 1-bromopropane and 19.9 g (143.7 mmol) K2CO3 are added to 1 L ACN and stirred at reflux over night. Afterwards the reaction is quenched by the addition of water and extracted with TBME. The org. layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, PE/EtOAc).

reactant | 2-bromo-5-hydroxypyridine | 57.5 mmol, 10.0 g | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 1-bromopropane | 230 mmol, 28.3 g | BrCCC | C3H7Br
reactant | K2CO3 | 143.7 mmol, 19.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 1 L | C(C)#N | C2H3N
product | 2-Bromo-5-propoxy-pyridine | BrC1=NC=C(C=C1)OCCC | C8H10BrNO
